US07135492B2
5-Chloro-2-methylphenyl isothiocyanate (18.3 g; 0.1 mol) was added dropwise to aqueous ethylamine (200 mL of 70% solution). The mixture was stirred for 18 hour at ambient temperature. Excess ethylamine was removed under a stream of nitrogen. The residue was diluted with water. The solids were collected by filtration, washed with water and dried to give N-(5-chloro-2-methylphenyl)-N ′-ethylthiourea (18.9 g). A sample crystallized from ethyl acetate afforded a solid, m.p. 120–122° C. Mass spectrum;; FAB (M+H)+ m/z 228. 1H-NMR (DMSO-d6; 300 MHz): δ 9.01 (br s, 1H), 7.67 (br s, 1H), 7.35 (br s, 1H), 7.25–7.16 (m, 2H), 3.44 (m, 2H), 2.13 (s, 3H), and 1.08 ppm (t, 3H).

reactant | 5-Chloro-2-methylphenyl isothiocyanate | 0.1 mol, 18.3 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | ethylamine | 200 mL | C(C)N | C2H7N
product | N-(5-chloro-2-methylphenyl)-N ′-ethylthiourea | 18.9 g | ClC=1C=CC(=C(C1)NC(=S)NCC)C | C10H13ClN2S
